US05654307
A solution of 6-chloro-3-nitropicolinamide (2.00 g, 9.91 mmol) in EtOAc/MeOH (1:1, 100 mL) is hydrogenated over 5% Pd-C (0.40 g) at 60 psi for 6 days, with additions of fresh catalyst after 2 and 4 days. After removal of the catalyst by filtration the solution is concentrated to dryness, to give 3-aminopicolinamide as an orange oil, which is used directly in the next step. The crude product is stirred under reflux with triethyl orthoformate (50 mL) for 42 h, during which time a tan precipitate forms. After cooling, the solid is filtered off, washed well with petroleum ether, and dried under vacuum to give 3H-pyrido[3,2-d]pyrimidin-4-one (1.27 g, 87%), mp 343°-345° C. [Price, C. C. and Curtin, D. Y. J. Amer. Chem. Soc. 68, 914, 1946 report mp 346°-347° C⟧

reactant | 6-chloro-3-nitropicolinamide | 9.91 mmol, 2.00 g | ClC1=CC=C(C(=N1)C(=O)N)[N+](=O)[O-] | C6H4ClN3O3
solvent | EtOAc MeOH | 100 mL | CCOC(=O)C.CO
catalyst | Pd-C | 0.40 g | [Pd] | Pd
product | 3-aminopicolinamide | NC=1C(=NC=CC1)C(=O)N | C6H7N3O
